US06355813B1
A 100 mL three-necked flask under nitrogen was charged with (S)-3-(1,3-Benzodioxol-5-yl)-2,3-dihydro-6-propoxy-1H-inden-1-one (1.5 g, 4.84 mmol), toluene (20 mL), 60% NaH suspension (213 mg, 5.3 mmol), NaOMe (288 mg, 5.3 =mmol), and dimethyl carbonate (2.5 mL, 29 mmol). The solution was warmed to 40 ° C. for 3 h, cooled to 0° C., quenched with 3 M AcOH (0.5 mL) and diluted with H2O (50 mL) and EtOAc (50 mL). The organic phase was washed with brine (50 mL), dried (MgSO4) and concentrated. The crude material was triturated with EtOAc/hexane (1:3, 50 mL) affording (1S-trans)-methyl 1-(1,3-benzodioxol-5-yl) -2,3-dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate as a pale yellow solid (710 mg, 73% yield).

reactant | (S)-3-(1,3-Benzodioxol-5-yl)-2,3-dihydro-6-propoxy-1H-inden-1-one | 4.84 mmol, 1.5 g | O1COC2=C1C=CC(=C2)[C@@H]2CC(C1=CC(=CC=C21)OCCC)=O | C19H18O4
reactant | NaH | 5.3 mmol, 213 mg | [H-].[Na+]
reactant | NaOMe | 288 mg | C[O-].[Na+]
reactant | dimethyl carbonate | 29 mmol, 2.5 mL | C(OC)(OC)=O | C3H6O3
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (1S-trans)-methyl 1-(1,3-benzodioxol-5-yl) -2,3-dihydro-3-oxo-5-propoxy-1H-indene-2-carboxylate | 710 mg, 73% yield | O1COC2=C1C=CC(=C2)[C@@H]2[C@H](C(C1=CC(=CC=C21)OCCC)=O)C(=O)OC | C21H20O6
